US05811428
ETHYL 2-TRIFLUOROMETHYL-4-HYDROXYPYRIMIDINE-5-CARBOXYLATE
A solution of diethyl ethoxymethylenemalonate (35.0 g, 162 mmol), trifluoroacetamidine (18 g, 162 mmol) and NaOEt (11.0 g, 162 mmol) in EtOH (200 mL) was heated at reflux for 6 h. The reaction mixture was concentrated and H2O (48 mL) was added. The resulting solid was filtered, washed with Et2O (300 mL) and H2O (200 mL), and dried to give the title compound (21 g, 50% yield); m.p. >220° C. (dec.); 1HNMR (DMSO-d6) δ 8.38, 4.16 (q, 2H), 1.25 (q, 3H).

reactant | diethyl ethoxymethylenemalonate | 162 mmol, 35.0 g | C(C)OC=C(C(=O)OCC)C(=O)OCC | C10H16O5
reactant | trifluoroacetamidine | 162 mmol, 18 g | FC(C(=N)N)(F)F | C2H3F3N2
reactant | NaOEt | 162 mmol, 11.0 g | CC[O-].[Na+]
solvent | EtOH | 200 mL | CCO | C2H6O
product | ETHYL 2-TRIFLUOROMETHYL-4-HYDROXYPYRIMIDINE-5-CARBOXYLATE | 21 g, 50% yield | FC(C1=NC=C(C(=N1)O)C(=O)OCC)(F)F | C8H7F3N2O3
